US07320972B2
(3R,4S)-4-(3′-{[tert-Butyl(dimethyl)silyl]oxy}biphenyl-4-yl)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-1-phenylazetidin-2-one (0.60 g, 0.86 mmol) was stirred at room temperature in dry methanol (20 mL) under a nitrogen atmosphere. Potassium fluoride (0.10 g, 1.72 mmol) was added and the reaction mixture was stirred 1.5 h at room temperature. The solution was poured into ethyl acetate and washed successively with water (2×), 10% aqueous sodium bicarbonate, water and brine. The organic solution was dried over sodium sulfate, filtered, concentrated and purified by chromatography over silica gel using ethyl acetate-hexane (gradient: 5% ethyl acetate to 50%) to afford (3R,4S)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-(3′-hydroxybiphenyl-4-yl)-1-phenylazetidin-2-one (0.46 g, 92%) as a white foam; 1H NMR (300 MHz, CDCl3) δ 7.57 (d, J=8.2, Hz, 2H,) 7.37 (d, J=8.2 Hz, 2H), 6.9-7.4 (m, 12H), 6.8 (m, 1H), 4.9 (br s, 1H), 4.67 (t, J=6.0 Hz, 1H), 4.63 (d, J=2.5 Hz, 1H), 3.0-3.1 (m, 1H), 1.8-2.0 (m, 4H), 0.87 (s, 9H), 0.02 (s, 3H), −0.16 (s, 3H).

reactant | (3R,4S)-4-(3′-{[tert-Butyl(dimethyl)silyl]oxy}biphenyl-4-yl)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-1-phenylazetidin-2-one | 0.86 mmol, 0.60 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)C1=CC=C(C=C1)[C@@H]1[C@H](C(N1C1=CC=CC=C1)=O)CC[C@@H](C1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C | C42H54FNO3Si2
reactant | Potassium fluoride | 1.72 mmol, 0.10 g | [F-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
product | (3R,4S)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-(3′-hydroxybiphenyl-4-yl)-1-phenylazetidin-2-one | 0.46 g, 92% | [Si](C)(C)(C(C)(C)C)O[C@@H](CC[C@H]1C(N([C@@H]1C1=CC=C(C=C1)C1=CC(=CC=C1)O)C1=CC=CC=C1)=O)C1=CC=C(C=C1)F | C36H40FNO3Si
